US07851411B2
1. 3-Amino-2-cyano-4-ethyl-2-hexene
13.1 g (94 mmol) of 1-Cyano-3-ethyl-2-oxo-pentane were dissolved in toluene and 15 g (194 mmol) ammonium acetate and 1 ml dry acetic acid were added. The mixture was reflured 2 h and then cooled to room temperature. The mixture was washed, dried and concentrated. Perification by customary methods gove 13. 1 g (100% of theory) of the title compound as a oil.

reactant | 1-Cyano-3-ethyl-2-oxo-pentane | 94 mmol, 13.1 g | C(#N)CC(C(CC)CC)=O | C8H13NO
reactant | ammonium acetate | 194 mmol, 15 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Amino-2-cyano-4-ethyl-2-hexene | NC(=C(C)C#N)C(CC)CC | C9H16N2
